US08372986B2
1-benzyl-5-(2-naphthyl)-1H-1,2,3-triazole (2a)
Benzyl azide (0.400 g, 3.00 mmol), 2-ethynylnaphthalene (0.503 g, 3.31 mmol), Cp*RuCl(PPh3)2 (25 mg, 0.031 mmol). Solvent, benzene; reaction temperature, 80° C.; reaction time, 4 hours; yield, 0.80 g (93%). EI-MS: m/z 285 [M+].

reactant | Benzyl azide | 3.00 mmol, 0.400 g | C(C1=CC=CC=C1)N=[N+]=[N-] | C7H7N3
reactant | 2-ethynylnaphthalene | 3.31 mmol, 0.503 g | C(#C)C1=CC2=CC=CC=C2C=C1 | C12H8
catalyst | Cp*RuCl(PPh3)2 | 0.031 mmol, 25 mg | C[C-]1C(=C(C(=C1C)C)C)C.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Ru+]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-benzyl-5-(2-naphthyl)-1H-1,2,3-triazole | C(C1=CC=CC=C1)N1N=NC=C1C1=CC2=CC=CC=C2C=C1 | C19H15N3
